US04460587
A mixture of 18.61 g of 4-methyl-2-(2-aminobenzyl)imidazole, 16.12 g of 1,1'-carbonyldiimidazole and 375 ml of methylene chloride is stirred at room temperature overnight. The methylene chloride is evaporated to a small volume, the mixture is cooled to 0° and the solids are filtered and washed with ether to give 2-methyl-11H-imidazo[1,2-c][1,3]benzodiazepine-5(6H)-one, m.p. 234.5°-236.5°.

reactant | 4-methyl-2-(2-aminobenzyl)imidazole | 18.61 g | CC=1N=C(NC1)CC1=C(C=CC=C1)N | C11H13N3
reactant | 1,1'-carbonyldiimidazole | 16.12 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 375 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-11H-imidazo[1,2-c][1,3]benzodiazepine-5(6H)-one | CC=1N=C2N(C(NC3=C(C2)C=CC=C3)=O)C1 | C12H11N3O
